************************************************************************
* auCdl Netlist:
* 
* Library Name:  cad3
* Top Cell Name: INVD1
* View Name:     schematic
* Netlisted on:  Nov 20 20:10:08 2022
************************************************************************

*.EQUATION
*.SCALE METER
*.MEGA
.PARAM

*.GLOBAL vss!
+        vdd!

*.PIN vss!
*+    vdd!

************************************************************************
* Library Name: cad3
* Cell Name:    INVD1
* View Name:    schematic
************************************************************************

.SUBCKT INVD1 vi vo
*.PININFO vi:I vo:O
MM0 vo vi vss! vss! NMOS_VTL W=300n L=50n m=1
MM1 vo vi vdd! vdd! PMOS_VTL W=400n L=50n m=1
.ENDS

