* File: NAND2.pex.netlist.pex
* Created: Sun Nov 20 19:53:59 2022
* Program "Calibre xRC"
* Version "v2021.1_33.19"
* Nominal Temperature: 27C
* Circuit Temperature: 27C
* 
.subckt PM_NAND2_B 3 7 13 17
c15 17 0 0.00610307f
c16 13 0 0.00625546f
c17 7 0 0.0216437f
c18 3 0 0.0341588f
r19 11 17 4.992
r20 11 13 89.3538
r21 5 17 1.98872
r22 5 7 30.42
r23 1 17 1.98872
r24 1 3 63.18
.ends

.subckt PM_NAND2_VSS! 1 6 8
c11 8 0 0.0321274f
c12 6 0 0.0114738f
c13 1 0 0.0132413f
r14 6 8 0.38
r15 2 6 0.264221
r16 1 2 0.781714
.ends

.subckt PM_NAND2_A 3 7 13 17
c13 17 0 0.00686083f
c14 13 0 0.00534936f
c15 7 0 0.0293374f
c16 3 0 0.0263704f
r17 11 17 4.992
r18 11 13 89.3538
r19 5 17 1.98872
r20 5 7 54.6
r21 1 17 1.98872
r22 1 3 39
.ends

.subckt PM_NAND2_Z 1 2 7 8 14
c16 8 0 0.00209035f
c17 7 0 0.00575803f
c18 2 0 0.0140929f
c19 1 0 0.0199065f
r20 9 14 0.217143
r21 7 9 0.212317
r22 7 8 0.705714
r23 3 8 0.212696
r24 2 3 1.444
r25 1 14 1.57971
.ends

.subckt PM_NAND2_VDD! 1 2 7 8 10
c13 8 0 0.0114978f
c14 7 0 0.0284562f
c15 2 0 0.0129082f
c16 1 0 0.0133945f
r17 8 10 0.368824
r18 7 11 0.264221
r19 7 10 0.357647
r20 3 8 0.264221
r21 2 11 1.15629
r22 1 3 1.15629
.ends

