************************************************************************
* auCdl Netlist:
* 
* Library Name:  cad4
* Top Cell Name: NAND2
* View Name:     schematic
* Netlisted on:  Nov 20 21:08:26 2022
************************************************************************

*.EQUATION
*.SCALE METER
*.MEGA
.PARAM

*.GLOBAL vdd!
+        vss!

*.PIN vdd!
*+    vss!

************************************************************************
* Library Name: cad4
* Cell Name:    NAND2
* View Name:    schematic
************************************************************************

.SUBCKT NAND2 a b z
*.PININFO a:I b:I z:O
MNMOS1 net1 b vss! vss! NMOS_VTL W=300n L=50n m=1
MNMOS0 z a net1 vss! NMOS_VTL W=300n L=50n m=1
MPMOS0 z a vdd! vdd! PMOS_VTL W=250.0n L=50n m=1
MPMOS1 z b vdd! vdd! PMOS_VTL W=250.0n L=50n m=1
.ENDS

