* File: INVD1.pex.netlist
* Created: Sun Oct 23 10:08:58 2022
* Program "Calibre xRC"
* Version "v2021.1_33.19"
* 
.subckt INVD1  VI VO
* 
MM0 VO VI VSS! VSS! NMOS_VTL L=5e-08 W=3e-07 AD=3.3e-14 AS=3.3e-14 PD=8.2e-07
+ PS=8.2e-07
MM1 VO VI VDD! VDD! PMOS_VTL L=5e-08 W=4e-07 AD=4.4e-14 AS=4.4e-14 PD=1.02e-06
+ PS=1.02e-06
c_4 VI 0 0.0931612f
c_8 VO 0 0.0341786f
c_12 VSS! 0 0.0747458f
c_16 VDD! 0 0.0766441f
*
.include "INVD1.pex.netlist.INVD1.pxi"
*
.ends
*
*
